US07741321B2
Commercially available p-bromobenzylamine hydrochloride (1 g, 4 mmol) was treated with 10% aq. NaOH (5 mL). To the clear solution was added (Boc)2O (1.1 g, 4.9 mmol) dissolved in dioxane (10 mL). The mixture was vigorously stirred at room temperature for 18 hours. The resulting residue was concentrated, suspended in water (20 mL), extracted with ethyl acetate (4×20 mL), dried over Na2SO4, filtered, and concentrated to yield tert-butyl-4-bromobenzylcarbamate (1.23 g, 96%) as a white solid. 1H NMR (300 MHz, DMSO-d6) δ 7.48 (d, J=8.4 Hz, 2H), 7.40 (t, J=6 Hz, 1H), 7.17 (d, J=8.4 Hz, 2H), 4.07 (d, J=6.3 Hz, 2H), 1.38 (s, 9H).

reactant | p-bromobenzylamine hydrochloride | 4 mmol, 1 g | Cl.BrC1=CC=C(CN)C=C1
reactant | NaOH | 5 mL | [OH-].[Na+]
reactant | (Boc)2O | 4.9 mmol, 1.1 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | tert-butyl-4-bromobenzylcarbamate | 1.23 g, 96% | C(C)(C)(C)OC(NCC1=CC=C(C=C1)Br)=O | C12H16BrNO2
